US06316482B1
To a solution of indole-4-carboxylic acid (500 mg) in methanol (9 ml) and conc. hydrochloric acid (1.0 ml) was added a portion of sodium cyanoborohydride (487 mg) at 0° C. and the mixture was stirred at ambient temperature for 1 hour. The suspension was diluted with water (10 ml) and then the clear solution was neutralized with 2N sodium hydroxide aqueous solution. Methanol was removed and the aqueous solution was diluted with dioxane (15 ml) and 1N sodium hydroxide aqueous solution (10 ml). To the mixture was added portionwise di-tert-butyl dicarbonate (813 mg) and the solution was stirred at ambient temperature for 2 hours. The solution was neutralized with 1N hydrochloric acid and diluted with ethyl acetate (30 ml). The resulting solution was washed with brine, dried over magnesium sulfate and concentrated in vacuo. The solid was triturated with diethyl ether:n-hexane (1:9) to give 1-tert-butoxycarbonylindoline-4-carboxylic acid (727 mg).

reactant | indole-4-carboxylic acid | 500 mg | N1C=CC=2C(=CC=CC12)C(=O)O | C9H7NO2
reactant | sodium cyanoborohydride | 487 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | methanol | 9 ml | CO | CH4O
solvent | hydrochloric acid | 1.0 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 1-tert-butoxycarbonylindoline-4-carboxylic acid | 727 mg | C(C)(C)(C)OC(=O)N1CCC=2C(=CC=CC12)C(=O)O | C14H17NO4
